Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Loss of consciousness, concern for seizure.
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
HPI: Mr. ___ is a jolly ___ man with ETOH use,
cirrhosis, HTN, and HLD who presents after an episode of loss of
consciousness. 

He was in a pub this afternoon around 1pm reading a book. He
needed to have a bowel movement so got up out of the bar stool
but felt lightheaded so sat back down. A couple friends came 
over
to chat with him about the book. He felt like he was having a
hard time carrying on the conversation for about 1 min. Also 
felt
faint and very lightheaded and lost consciousness. Denies any 
odd
smells or tastes, no de ___ or epigastric rising sensation
prior to losing consciousness. Friends held him up on the
barstool. EMS was called as was his wife. They arrived about 
8min
later, but he was still being held up in his seat. His arms were
shaking as well, right seemed to be more than left. He was
slumped forward with drool coming out of the left side of his
mouth. Friends report that he lost all color in his face. Had
bowel incontinence but no urinary incontinence, no tongue 
biting.

EMTs put him in a stretcher, and he started moving and looking
around a little confused immediately afterwards. By the time he
got into the ambulance (and was lying flat), he was laughing and
joking with the EMTs and was able to recite his wife's phone
number to them. 

This has never happened before. He takes a lot of blood pressure
medications but only took valsartan 160mg and amlodipine 5mg 
that
morning. Took metoprolol XL 25mg yesterday (tapered over the 
last
several months down from 200mg XL qd). Amlodipine was also
tapered from 10mg. He was coming off BP medications because he
lost 20 pounds over the last 8 months. He ate an almond 
croissant
in the morning and coffee, did not drink additional water. Only
took a few sips of beer at the pub. 

Typically drinks 2 large bottles of wine per day. Last drink was
yesterday (today only had a few sips). 
 
Past Medical History:
GERD, HTN, HLD, EtOH use, cirrhosis, transaminitis,
appendectomy, hernia repair, 2 ACL repairs
 
Social History:
___
Family History:
No family history of seizures.
 
Physical Exam:
Discharge Physical Exam:
Vitals: 
Temp: 98.2-98.7F
HR: ___
BP: ___
RR: ___
O2 sats: 95% on room air.

Left handed.

HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: tachycardic
Pulmonary: breathing comfortably on RA
Abdomen: Soft, NT, ND
Extremities: Warm, no edema
Neck: Difficulty turning neck all the way to either side, some 
limited range of motion with neck.

Neurologic Examination:
- Mental status: Awake, alert, oriented to self, ___, date.
Able to relate history without difficulty. Attentive. Speech is 
fluent with full
sentences, intact repetition, and intact verbal comprehension.
Naming intact.  No paraphasias. No dysarthria. Normal prosody. 
No apraxia. No evidence of hemineglect. No left-right confusion. 
Able to follow both midline and appendicular commands.

- Cranial Nerves: Pupils: 3-->2 mm, briskly reactive equally.
VF full to number counting.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Tongue midline.

- Motor:  Normal bulk and tone. No drift. Low amplitude high
frequency tremor in bilateral upper extremities. No asterixis.

   [Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]
 L   4     5     4     5     5    4     5     5     5    5 
 R   4     5     4     5     5    4     5     5     5    5
Toe flexors and extensors bilaterally weak.

Reflexes: Toes downgoing bilaterally.
  
- Sensory: No deficits to light touch bilaterally

- Coordination: + action tremor, and sometimes misses examiner's 
finger, but no clear dysmetria.

- Gait: normal gait.

Admission Physical Exam:

Vitals:  T: 97.7F  HR: 92  BP: 144/70  RR: 18  SaO2: 98% RA
General: tremulous but in excellent spirits
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: tachycardic
Pulmonary: breathing comfortably on RA
Abdomen: Soft, NT, ND
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented to self, ___, date.
Able to relate history without difficulty. Attentive, able to
name ___ backward without difficulty. Speech is fluent with full
sentences, intact repetition, and intact verbal comprehension.
Naming intact.  No paraphasias. No dysarthria. Normal prosody. 
No
apraxia. No evidence of hemineglect. No left-right confusion.
Able to follow both midline and appendicular commands.

- Cranial Nerves: PERRL 3->2 brisk. VF full to number counting.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally.  Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No drift. Low amplitude high
frequency tremor in bilateral upper extremities. No asterixis.

   [Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5     5    5     5     5     5    5 
 R   5     5     5     5     5    5     5     5     5    5
  
- Reflexes: 
       [Bic] [Tri] [___] [Quad] [Gastroc]
     L  3+    2+     3+      3+       2
     R  3+    2+     3+      3+       2  

Plantar response flexor bilaterally 

- Sensory: No deficits to light touch bilaterally

- Coordination: No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.

- Gait: deferred

 
Pertinent Results:
___ 02:13PM BLOOD WBC-4.7 RBC-3.28* Hgb-10.5* Hct-31.1* 
MCV-95 MCH-32.0 MCHC-33.8 RDW-13.0 RDWSD-44.8 Plt ___
___ 02:13PM BLOOD Neuts-48.0 ___ Monos-11.5 Eos-5.5 
Baso-1.5* Im ___ AbsNeut-2.26 AbsLymp-1.57 AbsMono-0.54 
AbsEos-0.26 AbsBaso-0.07
___ 05:30AM BLOOD Glucose-103* UreaN-15 Creat-0.9 Na-137 
K-4.3 Cl-101 HCO3-24 AnGap-16
___ 10:10PM BLOOD ALT-66* AST-75* AlkPhos-70 TotBili-0.8
___ 10:10PM BLOOD cTropnT-<0.01
___ 10:10PM BLOOD Albumin-4.4 Calcium-8.8 Mg-1.6
___ 02:13PM   ETHANOL-88*

Echocardiogram ___:
Normal biventricular systolic function. No cause of syncope 
identified.  

MRI Brain ___:
1. No evidence of a seizure focus on non-contrast MRI.  No 
evidence for acute intracranial abnormalities. 
2. Severe, symmetric bilateral hippocampal volume loss.
 
Brief Hospital Course:
Mr. ___ is a ___ year old gentleman with a history of 
alcoholism who presented with one episode of loss of 
consciousness that included some shaking movements, witnessed by 
a friend.
Mr. ___ had only eaten an "almond croissant" that day, and 
felt that he may have been dehydrated. He drank alcohol the 
night before, but had not had much other hydration in that day. 
He walked to a pub near his house, and felt slightly shaky on 
his way walking over to the pub, but he sat down and ordered a 
beer with his friend. In having a conversation with his friend, 
Mr. ___ turned pale, diaphoretic, and then collapsed onto the 
table. His friend held him up and supported him, at which point 
Mr. ___ had convulsions of his upper extremities.
EMS was called, and Mr. ___ "came to" when he was laid down 
on the stretcher. Until that time, his friends maintained  him 
in a seated position. 
Mr. ___ recalls that he had to have a bowel movement before 
the loss of consciousness, and that when he was on the 
stretcher, he had to have a bowel movement so badly that he went 
right there on the stretcher, and felt embarrassed. He does, 
indeed remember having a bowel movement.

This history that Mr. ___ provided was suspicious for 
syncope, and convulsive syncope. The fact that he turned pale, 
and diaphoretic, prior to the event of shaking suggests that 
syncope was the cause of the convulsions, and not an epileptic 
seizure. While Mr. ___ alcoholism is a risk factor for 
seizures, this event does not seem consistent with a seizure.

In the ED, Mr. ___ alcohol level was 0.088. Mr. ___ 
reported that his blood pressure in the ambulance was 90/50. 
While inpatient, he had normal blood pressures, if not elevated 
(in the 140s).

Routine EEG was performed while in the hospital, and was read 
preliminarily as normal, with the final read pending.

He had a brain MRI, which was overall negative, besides having 
significant evidence of hippocampal atrophy. 

On history, Mr. ___ complained of some neck pain. On physical 
exam, his pattern of mild weakness, unnoticed by him or his 
wife, is consistent with a cervical spondylosis, and some lumbar 
root disease. This can be addressed in the outpatient setting by 
his primary providers.

The differential diagnosis of Mr. ___ syncope includes 
vasovagal/hypotension, a sensitive carotid sinus, or an 
arrhythmia.
Mr. ___ had recently started taking baclofen, as his only 
recent medication change prior to this event. We are suspicious 
that the baclofen may have precipitated a drop in blood 
pressure, that could have led to the syncope. We recommended 
that Mr. ___ not take the baclofen anymore, until he follows 
up with his primary doctor who prescribed this medication, 
intended to be used to curb his alcohol "appetite," as Mr. 
___ described its purpose. 
He did not feel any palpitations leading up to this event. 

We prescribed a 30-day heart monitor upon discharge, to evaluate 
for any arrhythmias that could be intermittent. 

We made no other changes to Mr. ___ medications, besides 
recommending that he stop the baclofen.

Mr. ___ and his wife agreed with plans for discharge and 
follow-up.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Valsartan 160 mg PO DAILY 
2. amLODIPine 5 mg PO DAILY 
3. Baclofen 10 mg PO TID 
4. Vitamin B Complex 1 CAP PO DAILY 
5. Metoprolol Succinate XL 25 mg PO DAILY 
6. Pravastatin 40 mg PO QPM 
7. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*11 
2.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*11 
3.  amLODIPine 5 mg PO DAILY  
4.  Omeprazole 20 mg PO DAILY  
5.  Pravastatin 40 mg PO QPM  
6.  Valsartan 160 mg PO DAILY  
7.  Vitamin B Complex 1 CAP PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Syncope
Cervical spondylosis
Lumbar stenosis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,
You were admitted to the neurology unit at ___ because there 
was concern that you had a seizure versus a syncopal (fainting) 
episode. The episode you describe sounds most suspicious for 
syncope, where not enough blood/oxygen gets to your brain, and 
you "pass out." The pieces of the story that are most suspicious 
of syncope are that you turned pale and were sweating. Some 
people, when they faint, can have "convulsions," but these are 
not seizures. Because you had witnessed convulsions, however, we 
wanted to observe you to make sure you did not have any 
seizures.
You had an EEG, which was overall normal (though the final 
interpretation is still pending). You had a brain MRI, which did 
not show any sign of stroke or other cause of a possible 
seizure.  You were monitored on a heart monitor here, which was 
normal, and should go home with a heart monitor, to watch for 
any arrhythmia that could have provoked the syncopal episode. 
Your fainting episode was most likely prolonged because you were 
being held up; in the future, if you faint, you should be lying 
flat to allow you to regain consciousness as quickly as 
possible.

We are concerned that the new medication, baclofen, could have 
caused your blood pressure to drop, and therefore, caused you to 
faint. We recommend stopping that medication until you visit the 
doctor that prescribed it. 

The pain in your neck is not related to the fainting episode. 
You likely have arthritis in your spine/neck, which can cause 
this pain. The arthritis in your spine (cervical spondylosis, 
lumbar stenosis) is causing a very mild amount of weakness from 
pinched nerves and nerve irritation/inflammation).

Besides recommending to not use the baclofen anymore, there were 
no other changes to your medications.
 
Followup Instructions:
___